US09034880B2
A mixture of ethyl 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetate (200 mg) and piperidine (2 ml) was heated at 120° C. for 8 h to obtain 5 mg of 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(piperidin-1-yl)ethanone as TFA salt after purification on silica gel (230-400 mesh) chromatography eluting with methanol-dichloromethane gradient followed by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | ethyl 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)acetate | 200 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)OCC)CCN(C3)C | C16H19ClN2O2
reactant | piperidine | 2 ml | N1CCCCC1 | C5H11N
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(8-chloro-1,2,3,4-tetrahydro-2-methylpyrido[4,3-b]indol-5-yl)-1-(piperidin-1-yl)ethanone | 5 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)N1CCCCC1)CCN(C3)C | C19H24ClN3O
